US09212165B2
3-Chloro-N-[3-(6-methyl-pyrazin-2-ylethynyl)-adamantan-1-yl]-benzamide
To a stirred mixture of intermediate 8, 3-chloro-N-(3-ethynyl-adamantan-1-yl)-benzamide (60 mg, 0.19 mmol) and 2-chloro-6-methylpyrazine (60 mg, 0.47 mmol) in triethylamine (0.5 mL) and acetonitrile (2 mL) was added Pd(PPh3)4 (3 mg, 0.02 mmol), followed by an addition of CuI (3 mg, 0.016 mmol). After heated at 70° C. for three hours, the reaction mixture was cooled to room temperature, diluted with ethyl acetate (30 mL), washed with water (50 mL) and brine, dried over Na2SO4, and concentrated under reduced pressure. The resulting residue was purified by Prep HPLC to give 30 mg (38%) of the title compound, 3-chloro-N-[3-(6-methyl-pyrazin-2-ylethynyl)-adamantan-1-yl]-benzamide. 1H NMR (500 MHz, CDCl3): δ 8.57 (brs, 1H), 7.69 (t, J=2.0 Hz, 1H), 7.59 (d, J=8.0 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 7.35 (t, J=8.0 Hz, 1H), 5.78 (s, 1H), 2.57 (s, 3H), 2.40 (s, 2H), 2.25 (s, 2H), 2.17-2.15 (m, 2H), 2.06-1.96 (m, 6H), 1.73-1.70 (m, 2H); ESI-MS m/z: 406 (M+H)+.

reactant | 3-chloro-N-(3-ethynyl-adamantan-1-yl)-benzamide | 0.19 mmol, 60 mg | ClC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)C#C)C=CC1 | C19H20ClNO
reactant | 2-chloro-6-methylpyrazine | 0.47 mmol, 60 mg | ClC1=NC(=CN=C1)C | C5H5ClN2
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.02 mmol, 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.016 mmol, 3 mg | [Cu]I
product | 3-Chloro-N-[3-(6-methyl-pyrazin-2-ylethynyl)-adamantan-1-yl]-benzamide | 30 mg, 38% | ClC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)C#CC3=NC(=CN=C3)C)C=CC1 | C24H24ClN3O
